US09371320B2
D) N′-cyclohexyl-4-iodo-2-methoxynicotinohydrazide
A solution of 4-iodo-2-methoxynicotinic acid (558 mg), cyclohexyl hydrazine hydrochloride (362 mg), EDCI hydrochloride (575 mg), HOBt (405 mg) and triethylamine (304 mg) in DMF (10 mL) was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (515 mg).

reactant | 4-iodo-2-methoxynicotinic acid | 558 mg | IC1=CC=NC(=C1C(=O)O)OC | C7H6INO3
reactant | cyclohexyl hydrazine hydrochloride | 362 mg | Cl.C1(CCCCC1)NN
reactant | EDCI hydrochloride | 575 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 405 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 304 mg | C(C)N(CC)CC | C6H15N
product | N′-cyclohexyl-4-iodo-2-methoxynicotinohydrazide | 515 mg | C1(CCCCC1)NNC(C1=C(N=CC=C1I)OC)=O | C13H18IN3O2
